reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1](=[C:2]=[C:3]([C:4]([C:5](=[O:6])[H:12])([H:9])[H:10])[H:8])([H:7])[H:11]>>[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7],93.98644877224972
[C:1]([C:2]([C:3](=[O:4])[H:10])([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],70.73251971100002
[n:1]1([H:6])[c:2]([H:7])[n:3][n:4][c:5]1[H:8]>>[N:1](=[C:2](/[N:3]1[N:4]=[C:5]1[H:8])[H:7])\[H:6],102.147563556774
[C:1]([C@@:2]([C:3]#[C:4][H:11])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[C:4][H:11])[C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],88.1679997687201
[C:1]([C:2]([C:3](=[C:4]=[C:5]([H:12])[H:13])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]#[C:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],82.70005199911891
[H:9][H:11].[N:1](=[C:2]1\[O:3][C@:4]1([O:5]/[C:6](=[N:7]/[H:13])[H:12])[H:10])\[H:8]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],32.399873827217206
[C:1](=[C:2]([C@@:3]([O:4][H:8])([C:5]#[C:6][H:12])[H:11])[H:10])([H:7])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],78.1768181347021
[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[O:4][C:5]1([H:14])[H:15])([H:7])([H:8])[H:9].[O:6]([H:13])[H:16]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9],57.4021532111002
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C-:5]#[O+:6].[C:1](/[C:2](=[C:3](\[O:4][N:7]([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10],126.632505526505
[C:1]([O+:2]=[C-:3][C:5]([O:6][H:16])([H:14])[H:15])([H:7])([H:8])[H:9].[C:4]([H:10])([H:11])([H:12])[H:13]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],29.95134861584019
[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([O:7][H:21])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:20])([H:11])[H:12])([H:8])([H:9])[H:10].[C:4]1([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([O:7][H:21])[H:19],115.31743056832
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]12[C:5]([H:15])([H:16])[C:6][C:7]2([H:14])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6]#[C:7][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],35.49925844077892
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17]>>[C:1]1([H:8])([H:9])[C:2][C@@:6]2([H:16])[C:5]([H:14])([H:15])[C@:4]([C:3]([H:10])([H:11])[H:12])([H:13])[C@@:7]12[H:17],81.8660265305147
[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[C:1](#[C:2][C:3]([N:5]([C:4][H:9])[H:10])([H:7])[H:8])[H:6],74.37385379495551
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]1[C@:6]([C:5]([H:15])([H:16])[H:17])([H:18])[O:7]1)[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],47.36147986706971
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2](/[C:3](=[C:4](\[O:5][C:6]#[C:7][H:13])[H:12])[H:11])([H:9])[H:10])[H:8],94.3899810483587
[C:1]([C:2]([C@@:3]([O:4][H:13])([N+:6]#[C-:5])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],36.75540476170051
[C:1](/[C:2](=[C:3](/[C@:4]([C:5]([H:16])([H:17])[H:18])([C:6](=[O:7])[H:19])[H:14])[H:13])[H:12])([H:8])([H:9])[H:10].[H:11][H:15]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],75.18690422385141
[C:1]([C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([H:15])([H:16])[C@:5]1([O:7][H:21])[H:17])([H:8])([H:9])[H:10].[C:6]([H:11])([H:18])([H:19])[H:20]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C@@:5]([C:6]([H:18])([H:19])[H:20])([O:7][H:21])[H:17])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],90.2030515940774
[C:2](=[C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])[H:9].[O:1]([H:7])[H:10]>>[O:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],59.68551333133631
[C:1]([C:2]([C:4](=[C:3])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],9.067499852879116
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][H:10])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9],67.1154122965808
[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]#[N:7])([H:15])[H:16])([H:11])[H:13])([H:8])([H:9])[H:10].[H:12][H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]#[N:7])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],79.5059815520328
